US05342840
To a suspension of 1.2 g (30 mmol) of sodium hydride, previously washed with hexane, in 80 ml of DMF 4.07 g (23.6 mmol) of (1S,7R)-4,4-dimethyl-3,5-dioxabicyclo[5,1,0]oct-1-yl methanol was added and the mixture was stirred for 5 min. at room temperature. 3.97 ml (30 mmol) of benzyl bromide was added and the mixture was stirred for 14 hours at room temperature. Saturated aqueous solution of ammonium chloride was added and the mixture was extracted with hexane-ethyl acetate (1:1). The organic layer was washed with water and dried over anhydrous sodium sulfate, and evaporated in vacuo. The resultant residue was subjected to silica gel chromatography (hexane:ethyl acetate/5:1) to obtain 5.56 g (21.1 mmol, 90%) of (1S,7R)-1-benzyloxymethyl-4,4-dimethyl-3,5-dioxabicyclo[5,1,0]octane. Colorless oil; 1H-NMR(CDCl3) δ 0.67 (dd, J=4.2, 8.4 Hz, 1H), 0.92 (m, 1H), 1.00 (m, 1H), 1.28 (s,3H), 1.37 (s,3H), 3.13 (d, J=10.2 Hz, 1H), 3.50 (d, J=10.2 Hz, 1H), 3.70 (dd, J=3.9, 13.2 Hz, 1H), 3.78 (d, J=13.1 Hz, 1H), 4.12 (dd, J=5.1, 13.2 Hz, 1H), 4.15 (d, J=13.1 Hz, 1H), 4.50 (d, J =12.0 Hz, 1H), 4.55 (d, J=12.0 Hz, 1H), 7.32 (m, 5H); FD MASS, m/z 262 (M+).

reactant | sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
reactant | DMF | 23.6 mmol, 80 ml, 4.07 g | CN(C)C=O | C3H7NO
reactant | (1S,7R)-4,4-dimethyl-3,5-dioxabicyclo[5,1,0]oct-1-yl methanol | CC1(OC[C@]2(C[C@H]2CO1)CO)C | C9H16O3
reactant | benzyl bromide | 30 mmol, 3.97 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
product | (1S,7R)-1-benzyloxymethyl-4,4-dimethyl-3,5-dioxabicyclo[5,1,0]octane | 21.1 mmol, 5.56 g, 90% | C(C1=CC=CC=C1)OC[C@]12COC(OC[C@@H]2C1)(C)C | C16H22O3
